US06900215B2
A mixture of 2-(3-fluoro-5-nitrophenyl)-5,5-dimethyl-[1,3,2]dioxaborinane (15 g, 59 mmol) and 2-bromobenzonitrile (12.4 g, 68.2 mmol) in 1,2-dimethoxyethane (125 ml) and 2M aqueous sodium carbonate (50 ml) was degassed with nitrogen for 30 min then treated with tetrakis(triphenylphosphine)palladium(0) (2.06 g, 1.8 mmol). The reaction was then heated at 90° C. for 16 h, cooled to ambient temperature and partitioned between ethyl acetate and water. The organics were washed with brine, dried over anhydrous magnesium sulfate, filtered and pre-adsorbed onto silica. Purification by dry flash chromatography on silica, eluting with isohexane (containing 1% methanol) on a gradient of ethyl acetate (10-40%) afforded 3′-fluoro-5′-nitrobiphenyl-2-carbonitrile as a cream-coloured solid (10.3 g, 72%): δH (400 MHz, CDCl3) 7.54-7.61 (2H, m), 7.65 (1H, ddd, J 8, 2 and 2), 7.74 (1H, ddd, J 8, 8 and 2), 7.84 (1H, dd, J 8 and 2), 8.03 (1H, ddd, J 8, 8 and 2), 8.22-8.24 (1H, m).

reactant | 2-(3-fluoro-5-nitrophenyl)-5,5-dimethyl-[1,3,2]dioxaborinane | 59 mmol, 15 g | FC=1C=C(C=C(C1)[N+](=O)[O-])B1OCC(CO1)(C)C | C11H13BFNO4
reactant | 2-bromobenzonitrile | 68.2 mmol, 12.4 g | BrC1=C(C#N)C=CC=C1 | C7H4BrN
solvent | 1,2-dimethoxyethane | 125 ml | COCCOC | C4H10O2
solvent | sodium carbonate | 2M, 50 ml | C([O-])([O-])=O.[Na+].[Na+]
catalyst | tetrakis(triphenylphosphine)palladium(0) | 1.8 mmol, 2.06 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3′-fluoro-5′-nitrobiphenyl-2-carbonitrile | 10.3 g, 72% | FC=1C=C(C=C(C1)[N+](=O)[O-])C=1C(=CC=CC1)C#N | C13H7FN2O2
